US07750040B2
A solution of (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid (7.8 mg, 0.035 mmol), TBTU (11.2 mg, 0.035 mmol) and ethyl-diisopropylamine (18.0 μL, 0.105 mmol) in DMF (1 mL) is allowed to stand at rt for 30 min. The solution is added to 2-(4-aminomethyl-3-methoxy-phenoxy)-ethanol (6.4 mg, 0.035 mmol) and the mixture is allowed to stand at rt for 1 h. The mixture is separated by prep. HPLC to afford (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid 4-(2-hydroxy-ethoxy)-2-methoxy-benzylamide (7.6 mg) as a colourless lyophilisate. LC-MS: tR=0.98 min, [M+1]+=402.16.

reactant | (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid | 0.035 mmol, 7.8 mg | CC1([C@@H]2[C@H]1CC1=C(SC(=C21)C)C(=O)O)C | C12H14O2S
reactant | TBTU | 0.035 mmol, 11.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ethyl-diisopropylamine | 0.105 mmol, 18.0 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-(4-aminomethyl-3-methoxy-phenoxy)-ethanol | 0.035 mmol, 6.4 mg | NCC1=C(C=C(OCCO)C=C1)OC | C10H15NO3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalene-4-carboxylic acid 4-(2-hydroxy-ethoxy)-2-methoxy-benzylamide | 7.6 mg | OCCOC1=CC(=C(CNC(=O)C2=C3C[C@@H]4[C@H](C3=C(S2)C)C4(C)C)C=C1)OC | C22H27NO4S
